Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Acute onset vertigo
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI: The patient is a ___ yo F w/ PMH HTN, HLD who presents with
acute onset vertigo and a syncopal episode.

She was feeling in her usual state of health today, around 9pm 
on
___, she got up and went to kitchen and was talking to
daughter, when all of a sudden, she reports that she got a 
really
bad dizzy spell, and then lost consciousness for a few seconds
and started falling. Her daughter grabbed her and lowered her to
ground, preventing a fall. There was no head strike. Her 
daughter
noted ___ of terror on her face as she was falling, but
otherwise did not notice any other symptoms, such as facial
droop, weakness. The patient states that the onset of symptoms
was seconds. She describes her dizziness as everything spinning.
She denied double vision and states that she felt like she was
blacking out in the acute onset part of the symptoms. She denied
warmth, nausea, vomiting, preceding event. Reported nausea
afterwards, but no vomiting, nausea lasted until arrival in ED
around 10pm. Her daughter states that she seemed a bit
disoriented at first, but cleared up quickly. Her vertigo 
feeling
was worst initially, but not as bad after once she got up after
falling. She proceded to bathroom, where she fell onto toilet,
due to discoordination from the room spinning. She still needed
help with walking, as she was unsteady on her feet, her daughter
thinks she would have fallen if she wasn't there. The symptoms
were initally ___, then ___ right after the fall and medium
during the interview. It has slowly been improving since she
arrived in the emergency department, the vertigo has been
constant.

She has not had similar events in the past. She denies recent
illnesses, fevers, chills. no neck pain, no orthostasis, no
headache. no vision changes, no hearing changes, tinnitus. She
has R ear decreased hearing chronically. There is no change with
sudden head movements. She does note that when she sat up for
orthostatic vitals, she may have felt more dizzy.
The only change she notes is that she was started on crestor 
last
week.

She does state that she feels a little better since arriving in
the Ed got 500 cc NS for CTA prehydration around 11:50pm, prior
to orthostatic vitals being performed. 

orthostatics (laying, sitting, standing): BP 151/60, 143/64,
142/64. HR: 69, 81, 84

On neurologic review of systems, the patient denies headache,  
or
confusion. Denies difficulty with producing or comprehending
speech. Denies loss of vision, blurred vision, diplopia, 
tinnitus, hearing difficulty, dysarthria, or dysphagia. Denies
focal muscle weakness, numbness, parasthesia. Denies loss of
sensation. Denies bowel or bladder incontinence or retention.
Denies difficulty with gait.

On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
PMH/PSH:
HTN
HLD
cataracts
Breast Cancer s/p resection ___
meningioma resection ___
R hip replacement
L knee replacement 
                                                 

 
Social History:
SOCIAL HISTORY:
- Modified Rankin Scale: 
 [x] 0: No symptoms 
 [] 1: No significant disability - able to carry out all usual
activities despite some symptoms 
 [] 2: Slight disability: able to look after own affairs without
assistance but unable to carry out all previous activities 
 [] 3: Moderate disability: requires some help but able to walk
unassisted 
 [] 4: Moderately severe disability: unable to attend to own
bodily needs without assistance and unable to walk unassisted 
 [] 5: Severe disability: requires constant nursing care and
attention, bedridden, incontinent 
 [] 6: Dead 

Lives alone. Drives, does all IADLs and ADLs
___ for a ___

___ smoking ___
no alcohol use
no illicit drug use 
                          
 
Family History:
 
FAMILY HISTORY:
 Diabetes
heart disease
stroke     
 
Physical Exam:
ADMISSION EXAMINATION:

             
PHYSICAL EXAMINATION
Vitals: T 97.1 BP 149/89 RR 18 Spo2 100%

General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No ___ edema.
Skin: no rashes or lesions noted.

Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. Pt was able to
register 3 objects and recall ___ at 5 minutes. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. Visual acuity
___ bilaterally. No refixation on cover uncover. no vertical
misalignment. HIT negative. ___ negative.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.
-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___ 
L  5    ___   ___  5   5    5  5     5     5   
R  5    ___   ___  5   5    5  5     5     5   
-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. No extinction to 
DSS.
-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.
-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.
-Gait: appears steady on feet standing. able to take several
steps unassisted, though gait is somewhat wide based. no truncal
ataxia noted. romberg negative, not much sway noted. reports
feeling more unsteady with eyes closed.

DISCHARGE EXAMINATION: 

             
PHYSICAL EXAMINATION
Vitals: T 98.2 BP 106/53-160/68 RR 18 Spo2 100% HR 62, sinus 
arrhythmias PVCs

General: Awake, cooperative, NAD. Sitting in chair eating 
breakfast
HEENT: NC/AT, no scleral icterus noted, MMM
Neck: Supple, No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND
Extremities: No ___ edema.
Skin: no rashes or lesions noted.

Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive. Language is fluent. Normal 
prosody. There were no paraphasic errors. Speech was not 
dysarthric. Able to
follow both midline and appendicular commands. 

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. Visual acuity
___ bilaterally. no vertical
misalignment. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.
-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___ 
L  5    ___   ___  5   5    5  5     5     5   
R  5    ___   ___  5   5    5  5     5     5   
-Sensory: No deficits to light touch or proprioception 
throughout. No extinction to DSS.
-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.
-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.
-Gait: appears steady on feet standing. romberg negative with 
minimal sway although feels unsteady with eyes closed.

 
Pertinent Results:
___ 10:10PM   WBC-8.2 RBC-3.97 HGB-12.3 HCT-37.7 MCV-95 
MCH-31.0 MCHC-32.6 RDW-12.7 RDWSD-43.8
___ 10:10PM   NEUTS-55.8 ___ MONOS-8.6 EOS-1.5 
BASOS-0.7 IM ___ AbsNeut-4.59 AbsLymp-2.73 AbsMono-0.71 
AbsEos-0.12 AbsBaso-0.06
___ 10:10PM   PLT COUNT-273
___ 10:10PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 10:10PM   TSH-7.7*
___ 10:10PM   TRIGLYCER-111 HDL CHOL-54 CHOL/HDL-2.5 
LDL(CALC)-58
___ 10:10PM   CK-MB-7
___ 10:10PM   cTropnT-<0.01
___ 10:25PM   %HbA1c-6.1* eAG-128*
___ 11:00AM   T3-118 FREE T4-1.0
___ 11:00AM   ALBUMIN-4.7 CALCIUM-9.6 PHOSPHATE-3.6 
MAGNESIUM-1.8
___ 11:00AM   GLUCOSE-150* UREA N-16 CREAT-1.0 SODIUM-140 
POTASSIUM-4.0 CHLORIDE-101 TOTAL CO2-21* ANION GAP-18
___ 11:30PM URINE  BLOOD-NEG NITRITE-POS* PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-MOD*
___ 11:30PM URINE  RBC-<1 WBC-9* BACTERIA-MANY* YEAST-NONE 
EPI-2

   URINE CULTURE (Preliminary): 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 
      GRAM NEGATIVE ROD(S).    >100,000 CFU/mL.  PREDOMINATING 
ORGANISM. 
         INTERPRET RESULTS WITH CAUTION. 

___
  
CT HEAD WITHOUT CONTRAST: 
No acute large territorial infarct, hemorrhage, edema or mass. 
Changes 
following a left frontal craniotomy are noted, along with 
encephalomalacia of 
the left frontal lobe. Presumed postsurgical fat packing at the 
left 
frontoethmoidal recess as well as in the inferior aspect of the 
left frontal 
sinus with opacification of the rest of the frontal sinus. No 
evidence of bony 
expansion (mucocele formation) or bony destruction. The orbits 
appear normal. 
Partial opacification of the right sphenoid sinus. 
  
CTA head: The vessel of the circle of ___ and their major 
branches are 
patent without evidence of stenosis, occlusion or aneurysm 
formation.  There 
is extensive atherosclerotic calcification of the cavernous 
internal carotid 
arteries, causing up to mild narrowing. Dural venous sinuses are 
patent. 
  
CTA neck: Moderate calcific atherosclerotic changes involving 
the aortic arch. 
The carotid arteries are patent from their origin without 
evidence of 
dissection or occlusion. There is calcified and noncalcified 
plaque, most 
prominently at the carotid bifurcation causing approximately 25% 
stenosis of 
the proximal right ICA and minimal or no left ICA stenosis by 
NASCET criteria. 
The vertebral arteries are patent without evidence of stenosis, 
dissection or 
occlusion. 
  
Other: The imaged thyroid gland is unremarkable. The lung apices 
are grossly 
clear with the exception of mild apical scarring.  No cervical 
adenopathy. 
  
IMPRESSION:  
  
No intracranial mass, hemorrhage or large acute territorial 
infarct. 
  
Postsurgical changes post left frontal meningioma excision is 
noted. 
  
There is no intracranial arterial occlusion, marked stenosis or 
aneurysm 
formation. 
  
Mild atherosclerotic changes of the carotid bulbs, with 
approximately 25% 
stenosis of the proximal right ICA and no proximal left ICA 
stenosis by NASCET 
criteria.  Vertebral arteries are patent. 

MRI Brain ___
The left atrial volume index is mildly increased. No atrial 
septal defect is seen by 2D or color Doppler. Mild symmetric 
left ventricular hypertrophy with normal cavity size and 
regional function. Global systolic function is hyperdynamic 
(Quantitative biplane LVEF = 77%). There is no ventricular 
septal defect. The right ventricular cavity is mildly dilated 
with normal free wall contractility. The aortic valve leaflets 
(3) appear structurally normal with good leaflet excursion and 
no aortic stenosis. Mild [1+] aortic regurgitation is seen. The 
mitral valve leaflets are mildly thickened. No mass or 
vegetation is seen on the mitral valve. Trivial mitral 
regurgitation is seen. Moderate [2+] tricuspid regurgitation is 
seen. There is moderate pulmonary artery systolic hypertension. 
There is no pericardial effusion. 

 IMPRESSION: Mild aortic regurgitation with normal valve 
mophology. Mild symmetric left ventricular hypertrophy with 
normal cavity size and hjyperdynamic global systolic function. 
Mildly dilated right ventricle with normal systolic function. 
Moderate tricuspid regurgitation. Moderate pulmonary artery 
systolic function.  

Echo ___
The left atrial volume index is mildly increased. No atrial 
septal defect is seen by 2D or color Doppler. Mild symmetric 
left ventricular hypertrophy with normal cavity size and 
regional function. Global systolic function is hyperdynamic 
(Quantitative biplane LVEF = 77%). There is no ventricular 
septal defect. The right ventricular cavity is mildly dilated 
with normal free wall contractility. The aortic valve leaflets 
(3) appear structurally normal with good leaflet excursion and 
no aortic stenosis. Mild [1+] aortic regurgitation is seen. The 
mitral valve leaflets are mildly thickened. No mass or 
vegetation is seen on the mitral valve. Trivial mitral 
regurgitation is seen. Moderate [2+] tricuspid regurgitation is 
seen. There is moderate pulmonary artery systolic hypertension. 
There is no pericardial effusion. 

 IMPRESSION: Mild aortic regurgitation with normal valve 
mophology. Mild symmetric left ventricular hypertrophy with 
normal cavity size and hjyperdynamic global systolic function. 
Mildly dilated right ventricle with normal systolic function. 
Moderate tricuspid regurgitation. Moderate pulmonary artery 
systolic function.  
 
Brief Hospital Course:
Ms. ___ is a ___ old woman with a past medical history of 
HTN, hyperlipidemia and left frontal meningioma s/p resection 
who presented with acute onset vertigo lasting seconds causing 
her to "pass out" and possibly lose consciousness. No other 
associated neurologic symptoms. Her exam on presentation was 
non-focal, though she had a wide-based somewhat cautious gait 
and continued to feel a little unsteady with eyes closed 
initially. Outpatient vestibular physical therapy was 
recommended per ___.

She was admitted to the neurology service and underwent MRI 
brain which did not show acute infarct. CTA H&N showed patent 
vessels with mild atherosclerotic changes of the carotid bulbs, 
with approximately 25% stenosis of the proximal right ICA and no 
proximal left ICA stenosis. She had patent vertebral arteries. 

Etiology of her event is concerning for transient ischemic 
attack (TIA) given the abrupt nature and her multiple vascular 
risk factors. However, the nature of the event could have also 
been artery to artery or cardioembolic. She was started on 
Aspirin 81mg for stroke prophylaxis. Stroke risk factors were 
checked, including HgA1c 6.1% and LDL 58. She was monitored on 
telemetry which showed sinus rhythm with occasional PVCs. TTE 
revealed mildly increased left atrial volume, mild aortic 
regurgitation, mild symmetric left ventricular hypertrophy with 
normal cavity size and hyperdynamic global systolic function. No 
thrombus visualized. She was discharged with ___ of Hearts 
monitor to evaluate for underlying paroxysmal atrial 
fibrillation. ___ recommended outpatient ___. 

Of note, she found to have a positive UA which was treated with 
nitrofurantoin, urine cultures pending at time of discharge. 

Transitional issues: 
[ ] completing 5 day course of nitrofurantoin (to complete ___ 
for uncomplicated UTI, urine culture prelim GRAM NEGATIVE ROD(S) 
>100,000 CFU/mL, PREDOMINATING ORGANISM. 
[ ] TSH elevated 7.7 during admission, T3 118, T4 1.0 (normal); 
recommend repeat outpatient testing
[ ] ___ of hearts monitor as outpatient to evaluate for atrial 
fibrillation
[ ] outpatient vestibular physical therapy
[ ] follow up with neurology Dr. ___ at 
10:30 AM

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
 1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No  
 2. DVT Prophylaxis administered? (x) Yes - () No  
 3. Antithrombotic therapy administered by end of hospital day 
2? (x) Yes - () No  
 4. LDL documented? (x) Yes (LDL = 58) () No  
 5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No [if LDL 
>70, reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/___ practice 
___/physician ___ (physician/APN/PA) or pharmacist  
 [ x] LDL-c less than 70 mg/dL   
 6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]  
 7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
 8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No. If no, why not? (I.e. patient at baseline 
functional status)
 9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ x] LDL-c less than 70 mg/dL  
 10. Discharged on antithrombotic therapy? () Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No  
 11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO DAILY 
2. Vitamin D 1000 UNIT PO DAILY 
3. Multivitamins 1 TAB PO DAILY 
4. Rosuvastatin Calcium 10 mg PO QPM 
5. Hyzaar (losartan-hydrochlorothiazide) 100-25 mg oral DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin [Aspir-Low] 81 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*2 
2.  Nitrofurantoin Monohyd (MacroBID) 100 mg PO Q12H Duration: 3 
Days 
RX *nitrofurantoin monohyd/m-cryst [Macrobid] 100 mg 1 
capsule(s) by mouth twice a day Disp #*7 Capsule Refills:*0 
3.  Rosuvastatin Calcium 20 mg PO QPM 
RX *rosuvastatin [Crestor] 20 mg 1 tablet(s) by mouth qpm Disp 
#*30 Tablet Refills:*2 
4.  amLODIPine 5 mg PO DAILY  
5.  Hyzaar (losartan-hydrochlorothiazide) 100-25 mg oral DAILY  
6.  Multivitamins 1 TAB PO DAILY  
7.  Vitamin D 1000 UNIT PO DAILY  
8.Outpatient Physical Therapy
Referral for vestibular physical therapy for 
vertigo ICD-10-CM Diagnosis Code T75.23XD
Transient ischemic attack G45.9
Prognosis: good

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Transient ischemic attack

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 
 
You were hospitalized due to symptoms of vertigo resulting from 
a TRANSIENT ISCHEMIC ATTACK (TIA), a condition where a blood 
vessel providing oxygen and nutrients to the brain is 
temporarily blocked by a clot. The brain is the part of your 
body that controls and directs all the other parts of your body, 
so damage to the brain from being deprived of its blood supply 
can result in a variety of symptoms.  

TIA can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
- high blood pressure
- high cholesterol 
- atherosclerosis
- pre-diabetes

We are changing your medications as follows:  
-START ASPIRIN 81MG DAILY
-CHANGE ROSUVASTATIN TO 20MG NIGHTLY 

Please take your other medications as prescribed.  

Please follow up with Neurology and your primary care physician 
as listed below.  
 
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  

Sincerely,  
Your ___ Neurology Team  

 
Followup Instructions:
___